US04230712
C. 3-Methoxymorphinan-6-one Hydrochloride.
A suspension of 17-cyano-3-methoxymorphinan-6-one (6.9 g; prepared in Part B) in 200 ml of 2 N HCl was refluxed for 8 hours. The resulting solution was treated as in Example 1C to yield 5.2 g of crystalline product, mp 190°-200° C. An additional 0.9 g was obtained from the mother liquor. Total yield was 6.1 g (85%).

reactant | 17-cyano-3-methoxymorphinan-6-one | 6.9 g | C(#N)N1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)=O | C18H20N2O2
reactant | HCl | 2 N, 200 ml | Cl | ClH
product | 3-Methoxymorphinan-6-one Hydrochloride | 5.2 g | Cl.COC=1C=CC=2C[C@@H]3[C@@H]4CCC(C[C@@]4(C2C1)CCN3)=O | InChI=1S/C17H21NO2.ClH/c1-20-13-4-2-11-8-16-14-5-3-12(19)10-17(14,6-7-18-16)15(11)9-13;/h2,4,9,14,16,18H,3,5-8,10H2,1H3;1H/t14-,16+,17-;/m0./s1
